US05283349
A solution of the (1S,2RS,3RS,5S,6S,7R)-3-methanesulfonyloxymethyl-2,3-epoxy-6-[(E,3S)-3-(2-tetrahydropyranyloxy)-1-octenyl]-7-(2-tetrahydropyranyloxy) bicyclo[3.3.0]octane (781 mg, 1.40 mmoles) in 3 ml of tetrahydrofuran was added to an anion radical solution prepared by reacting naphthalene (1.28 g, 10 mmoles) and sodium (207 mg, 9 mmoles) in 30 ml of tetrahydrofuran at room temperature for 1 hour. The mixture was stirred at room temperature for 10 minutes. To the reaction solution was addded 3.0 g of ammonium chloride, and thereafter, a saturated aqueous solution of ammonium chloride was added. The mixture was worked up and extracted with ethyl acetate. The organic layer was washed with sodium chloride, dried over anhydrous magnesium sulfate, and concentrated to obtain a crude product. The crude product was subjected to column chromatography (silica gel 50 g; hexane/ethyl acetate=19/1) to give (1S,2RS,5S,6S,7R)-2-hydroxy-3-methylene-6-[(E,3S)-3-(2-tetrahydropyranyloxy)-1-octenyl]-7-(2-tetrahydropyranyloxy)bicyclo[3.3.0]octane (520 mg, 1.12 mmoles, 80%).

reactant | (1S,2RS,3RS,5S,6S,7R)-3-methanesulfonyloxymethyl-2,3-epoxy-6-[(E,3S)-3-(2-tetrahydropyranyloxy)-1-octenyl]-7-(2-tetrahydropyranyloxy) bicyclo[3.3.0]octane | 1.40 mmoles, 781 mg | CS(=O)(=O)OCC12C([C@H]3C[C@H]([C@H]([C@H]3C1)\C=C\[C@H](CCCCC)OC1OCCCC1)OC1OCCCC1)O2 | C28H46O8S
reactant | naphthalene | 10 mmoles, 1.28 g | C1=CC=CC2=CC=CC=C12 | C10H8
reactant | sodium | 9 mmoles, 207 mg | [Na] | Na
reactant | ammonium chloride | 3.0 g | [Cl-].[NH4+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | (1S,2RS,5S,6S,7R)-2-hydroxy-3-methylene-6-[(E,3S)-3-(2-tetrahydropyranyloxy)-1-octenyl]-7-(2-tetrahydropyranyloxy)bicyclo[3.3.0]octane | 1.12 mmoles, 520 mg, 80% | OC1[C@H]2C[C@H]([C@H]([C@H]2CC1=C)\C=C\[C@H](CCCCC)OC1OCCCC1)OC1OCCCC1 | C27H44O5
